US04034090
Water (50 cc.) and pyridine (8.3 cc.) are added to 3-acetoxymethyl-2-carboxy-8-oxo-7-[(1,3-dithiol-2-on-4-yl)-acetamido]-5-thia-1-aza-bicyclo[4.2.0]-oct-2-ene (22 g.), sodium bicarbonate (4.35 g.) and potassium thiocyanate (99.5 g.). After stirring, a syrupy homogeneous medium is obtained, the pH of which is adjusted to 6.5 by adding concentrated phosphoric acid. The mixture is heated to 60° C. for 5 hours. After cooling, it is diluted with distilled water (350 cc.) and washed three times with chloroform (a total of 300 cc.). The last traces of chloroform are removed from the aqueous phase under reduced pressure (20 mm Hg), and this phase is then treated with decolourising charcoal, filtered over "Supercel" and cooled with an ice-water bath. It is acidified to pH= 2 by adding 4 N hydrochloric acid whilst maintaining the temperature below 5° C. After precipitation, the mixture is stirred for 1 hour whilst continuing to cool it with an ice-water bath, and is then washed twice by decanting, using iced water (one liter). The precipitate is isolated by filtration and washed three times with iced water (a total of 300 cc.). The moist solid obtained is suspended in water (100 cc.) and a 25% solution of Amberlite LA 2 in methyl isobutyl ketone (100 cc.) is added. The mixture is stirred until the solid has completely dissolved and the organic phase is then decanted and discarded. The aqueous phase is extracted twice with a 25% Amberlite LA 2 solution in methylisobutyl ketone (a total of 150 cc.), then with ethyl acetate (100 cc.) and finally 3 times with ethyl ether (a total of 300 cc.). The water is evaporated under reduced pressure (20 mm Hg) at 40° C. An oil is obtained which, when triturated in acetone (150 cc.), gives a white solid which is filtered off. The compound obtained is washed three times with acetone (a total of 150 cc.) and then dried under reduced pressure (0.5 mm Hg) to give 2-carboxylato-8-oxo-7-[(1,3-dithiol-2-on-4-yl)-acetamido]-3-(1-pyridinio-methyl)-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene (11.7 g.).

reactant | 3-acetoxymethyl-2-carboxy-8-oxo-7-[(1,3-dithiol-2-on-4-yl)-acetamido]-5-thia-1-aza-bicyclo[4.2.0]-oct-2-ene | 22 g | C(C)(=O)OCC1=C(N2C(C(C2SC1)NC(CC=1SC(SC1)=O)=O)=O)C(=O)O | C15H14N2O7S3
reactant | sodium bicarbonate | 4.35 g | C([O-])(O)=O.[Na+]
reactant | potassium thiocyanate | 99.5 g | [S-]C#N.[K+]
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
solvent | water | 350 cc | O | H2O
solvent | water | 100 cc | O | H2O
solvent | methyl isobutyl ketone | 100 cc | C(C(C)C)C(=O)C | C6H12O
solvent | Water | 50 cc | O | H2O
solvent | pyridine | 8.3 cc | N1=CC=CC=C1 | C5H5N
product | 2-carboxylato-8-oxo-7-[(1,3-dithiol-2-on-4-yl)-acetamido]-3-(1-pyridinio-methyl)-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene | 11.7 g | C(=O)([O-])C=1N2C(C(C2SCC1C[N+]1=CC=CC=C1)NC(CC=1SC(SC1)=O)=O)=O | C18H15N3O5S3
